US07304081B2
Step 4. 1-[4-(2-Amino-1,3-thiazol-4-yl)phenyl]cyclopropanecarboxylic acid
Lithium hydroxide monohydrate (0.24 g, 5.8 mmol) was added to a mixture of methyl 1-[4-(2-amino-1,3-thiazol-4-yl)phenyl]cyclopropanecarboxylate (0.2 g, 0.73 mmol) in THF (3.0 ml) and water (1.0 mL), and the resulting mixture was refluxed for 30 minutes. Then the reation mixture was concentrated and the residue was adjusted to be acidic (pH=˜3) by 1N HCl aqueous solution. The precipitate fromed was filtered and washed with water to afford the desired product. LC-MS: 261.0 (M+H)+.

reactant | Lithium hydroxide monohydrate | 5.8 mmol, 0.24 g | O.[OH-].[Li+]
reactant | methyl 1-[4-(2-amino-1,3-thiazol-4-yl)phenyl]cyclopropanecarboxylate | 0.73 mmol, 0.2 g | NC=1SC=C(N1)C1=CC=C(C=C1)C1(CC1)C(=O)OC | C14H14N2O2S
solvent | THF | 3.0 ml | C1CCOC1 | C4H8O
solvent | water | 1.0 mL | O | H2O
product | 1-[4-(2-Amino-1,3-thiazol-4-yl)phenyl]cyclopropanecarboxylic acid | NC=1SC=C(N1)C1=CC=C(C=C1)C1(CC1)C(=O)O | C13H12N2O2S
